US04080502
2,4-Dioxo-hexahydro-1,3,5-trimethyl-6-(2-hydroxy-4-aminophenyl)-s-triazine
10.9 (0.1 mol) of m-aminophenol are added to a solution of 19.1 g (0.1 mol) of 2,4-dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium chloride in 50 ml of water and the mixture is stirred for some minutes until a clear solution has been produced. 8 g of sodium bicarbonate are then added. 24 g (85) of the same compound as in Example 5 precipitate.

reactant | m-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2,4-dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium chloride | 0.1 mol, 19.1 g | [Cl-].O=C1[NH+](CN(C(N1C)=O)C)C
reactant | sodium bicarbonate | 8 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
product | 2,4-Dioxo-hexahydro-1,3,5-trimethyl-6-(2-hydroxy-4-aminophenyl)-s-triazine | O=C1N(C(N(C(N1C)=O)C)C1=C(C=C(C=C1)N)O)C | C12H16N4O3
